Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I thought I was losing my mind, but a woman at church said she 
had the same during her menopause"
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ mother of four adult children, separated from her husband, 
recently lost financial support, unable to find a job after 
years of being a ___, currently domiciled but pending 
eviction due to inability to pay rent, w/ no formal PPHx but 
self-reported Hx of PMDD, no significant PMHx aside from 
currently undergoing menopause, who was BIBA after the police 
called by ___ children, who were alarmed by suicidal 
statements in her emails, broke into ___ home and found 
her agitated, as well as a noose hanging from the ceiling and a 
chair next to it. 

Per EMD report, ___ children became alarmed by the 
statements of patient planning on "hanging" herself, as well as 
instructions regarding her funeral in her emails and texts and 
called ___ police. When the police arrived, patient refused 
to answer the door and shut off the phone. After a forced entry, 
the police a rope tied to a sprinkler head on the ceiling and a 
chair next to the rope; a suicide note was found in the near 
vicinity of the chair and the rope.  When EMS arrived on the 
scene, patient was found pacing the room and extremely agitated. 
She was uncooperative with EMD assessment and refused to be 
transported to hospital willingly. Patient was informed that BPD 
and EMS would be taking her to hospital against her wishes 
because she posed an immediate threat to her wellbeing. As 
patient was assisted toward a stretcher, she became physically 
aggressive with swinging arms and kicking legs, so she was 
physically restrained using hard restraints on the stretcher and 
transported to ___ ED.

Per ED staff notes, on arrival to ___ ED patient variably 
admitted or denied any current SI to different ED staff members 
and was initially uncooperative with assessment including 
history, vitals, labs and changing into a hospital gown (because 
it's "against her religion" and because she doesn't think she 
has any medical reasons for it). Patient did admit to having 
prior thoughts and plans of hurting herself but denied any 
attempts. Patient ultimately agreed to taking labs and vitals. 

On my interview, patient was more cooperative with providing 
history. She reported that her issues began about ___ years 
ago when she started experiencing mood swings, anhedonia, severe 
fatigue, loss of appetite resulting in loss of weight ("haven't 
eaten for weeks"), and early and late insomnia ("sleep about 4 
hours a night"). These symptoms coincided with patient starting 
to have very irregular and more frequent periods. Patient says 
that at first she thought she was "losing [her] mind" but was 
recently reassured by one of her ___ members that her 
symptoms may have been caused by the menopause she's currently 
undergoing and can be treated with hormonal therapy. Patient 
denies current SI or need in psychiatric care (she's distrustful 
of medical professional in general, doesn't want to "put 
chemicals" into her body, doesn't want to talk to anyone about 
her life and her feelings, and doesn't believe she has anything 
that can be helped by psychiatry). She says she's done her 
research online and only needs to get "bioidentical" hormonal 
treatment (which, she concedes, she cannot afford now).

When confronted about the noose and the handwritten suicide note 
found in her apartment, she said she was suicidal about a month 
ago when she was feeling a lot worse than now and was actually 
thinking of hanging herself, which is why she got the noose and 
wrote the note. When asked how come she still has them in her 
apartment, patient said that she hasn't completely made her mind 
about what to do yet. She says she's in significant emotional 
distress and is also disturbed by the fact that she has no 
control over it (she says she used to be able to deal with 
things just fine before). "It's not like I want to die, I just 
want this to end." Patient says that she started having PMDD 
after the birth of her second child and that she was able to 
deal with those symptoms with prayer and medication, but 
"they're not working now." She says that her faith is what's 
keeping her from killing herself now.

After being reassured that depression is a very treatable 
condition and offered help in form of hospitalization and 
treatment, patient said she was not interested in it, since she 
wouldn't take any medications ("I know what I'm willing to 
accept") and thinks that "three days not gonna make a 
difference." Patient was informed that she could not leave AMA 
and was likely to be hospitalized involuntarily because of high 
concerns for her safety; she accepted this with resignation. 

Patient declined to provide any collateral contacts initially; 
she says she has "fallen out" with her husband and doesn't want 
her children to be involved in this (she has been trying to keep 
her depression from her children as much as possible).

Patient endorses sad mood, fatigue, anhedonia, poor appetite 
with loss of weight, poor sleep and intermittent but not current 
SI. She denies ever having violent thoughts towards others or 
any episodes suggestive of (hypo)mania. She is somewhat cagey 
regarding A/VH and paranoia but ultimately concedes that she may 
have had "very strange and disturbing" thoughts and experiences 
about a month ago when her symptoms were at their worst. 

___ note found in the apartment discussed manner in which 
patient would like her body to be buried, and patient endorsed 
feelings of loneliness, "I was there for everyone but no one was 
there for me...you all sat around attacking me while I was 
suffering for so long".  
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
- patient reports history of PMDD after having her second child; 
she saw a doctor for it and was prescribed Xanax which she 
didn't want to take, so she dealt with it successfully with 
prayer and meditation
Hospitalizations: none
Current treaters and treatment: none
Medication and ECT trials: none
Self-injury: denies
Harm to others: denies
Access to weapons: denies

PAST MEDICAL HISTORY: 
- denies any;
- patient has not seen a doctor since delivering her youngest 
son ___ years ago;
- she doesn't have a medical insurance;
- currently undergoing menopause (and is having her period right 
now)

 
Social History:
Patient was born and raised in the ___ area by a single 
mother and maternal grandmother. She went to college but didn't 
finish it because she got married, started having children and 
became a ___. She now has four successful adult children 
(eg., one is an ___, another a ___ etc.) and keeps 
in contact with all of them. Patient has not worked since she 
got married. She started looking for a job ___ years ago when her 
youngest son went to college, but hasn't been able to find one. 
She hasn't had a medical insurance either and hasn't seen a 
doctor since she delivered her youngest son. She is not on any 
public assistance. Patient and her husband separated after she 
started having mood swings about ___ years ago. He supported 
her financially, including paying her rent, until they had a bad 
"falling out" recently, so that he's not financially supporting 
her anymore, and she may be evicted from her apartment soon for 
not being able to pay rent. Patient refused to discuss her 
relationship with her husband any further.
___ faith is very important to her. While she 
wasn't raised in a religious family, she started attending a 
church after the birth of her second child, and noticed that 
praying and meditation helped with her PMDD. 
 
Family History:
Denies any family psychiatric history, specifically denies 
perimenopausal depression in her mother and maternal grandmother
 
Physical ___:
EXAM: 
Mental Status:
-Appearance: ___ yo women who appears stated age, wearing own 
clothes (blue shirt, black sweatpants, clean pink tennis shoes), 
well-groomed, with Bible on lap with multiple notes/papers 
inside.
-Behavior: NAD, sitting with legs crossed, maintains good eye 
contact.
-Attitude: cooperative, calm, although at times slightly 
irritable. Demonstrated somewhat self-righteous and 
grandiose/narcissistic attitude
-Mood: "fine"
-Affect: euthymic, constricted, congruent w/ stated mood, 
reactive
-Speech: spontaneous, fluent, normal rate and prosody
-Thought process: grossly linear and goal directed
-Thought Content: 
---Safety: Denied current SI
---Delusions: denied delusions, however, in her suicide note, 
she referred to people as "___ #1" ___, ___'s 
daughter's boyfriend), and "Devil #2" ___, ___'s eldest 
daughter). Also stated in letter: "Don't bother pretending I 
should of [sic] listen to ___ and stayed away from the ___ 
demons. I would still be alive". Patient denied ever writing 
"___ demons".
---Obsessions/Compulsions: denied
---Hallucinations: denied A/V/H. 
-Insight: limited; patient acknowledging symptoms and need to 
get help/reconcile w/ family but attributing all symptoms to 
menopause
-Judgment: limited; patient expresses desire to get help from 
___ MD when she leaves and use "bioidentical hormones" and 
"herbal therapies", but rejects any use of allopathic medication

Cognition: 
-Wakefulness/alertness: awake, alert
-Attention: not formally tested, but able to respond 
appropriately to long/detailed questions
-Orientation: not formally tested 
-Memory: not formally tested, but able to recall specific events 
in last month
-Language: not formally tested, but no perceived deficits

 -HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
 oropharynx clear, no scleral icterus.
 -Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
 murmurs/rubs/gallops. Distal pulses ___ throughout.
 -Pulmonary: No increased work of breathing.  Lungs clear to
 auscultation bilaterally.  No wheezes/rhonchi/rales.
 -Abdominal: Non-distended.  No tenderness to palpation in all
quadrants.  No guarding, no rebound tenderness.
 -Extremities: Warm and well-perfused.  No edema of the limbs.
 -Skin: No rashes or lesions noted.

Neurological:
 -Cranial Nerves:
 ---I: Olfaction not tested.
 ---II: PERRL 3 to 2mm, both directly and consentually; brisk
 bilaterally.  VFF to confrontation.
 ---III, IV, VI: EOMI without nystagmus
 ---V: Facial sensation intact to light touch in all 
distributions
 ---VII: No facial droop, facial musculature symmetric and ___
 strength in upper and lower distributions, bilaterally
 ---VIII: Hearing intact to finger rub bilaterally
 ---IX, X: Palate elevates symmetrically
 ---XI: ___ strength in trapezii and SCM bilaterally
 ---XII: Tongue protrudes in midline
 -Motor: Normal bulk and tone bilaterally. No abnormal 
movements,
 no tremor. Strength ___ throughout.
 -Sensory: No deficits to fine touch throughout
 -DTRs: 2 and symmetrical throughout
 Coordination: Normal on finger to nose test, no intention 
tremor noted
 -Gait: Normal stride and arm swing.  

 
Pertinent Results:
___ 08:40PM BLOOD WBC: 8.5 RBC: 3.59* Hgb: 10.2* Hct: 33.1* 
MCV: 92 MCH: 28.4 MCHC: 30.8* RDW: 16.9* RDWSD: 57.1* Plt Ct: 
211 
___ 08:40PM BLOOD WBC: 8.5 RBC: 3.59* Hgb: 10.2* Hct: 33.1* 
MCV: 92 MCH: 28.4 MCHC: 30.8* RDW: 16.9* RDWSD: 57.1* Plt Ct: 
211 
___ 08:40PM BLOOD Neuts: 85.2* Lymphs: 9.4* Monos: 4.8* 
Eos: 0.0* Baso: 0.1 Im ___: 0.5 AbsNeut: 7.24* AbsLymp: 0.80* 
AbsMono: 0.41 AbsEos: 0.00* AbsBaso: 0.01 
___ 08:40PM BLOOD Glucose: 160* UreaN: 9 Creat: 0.9 Na: 146 
K: 4.2 Cl: 109* HCO3: 26 AnGap: 11 
___ 08:40PM BLOOD TSH: 0.55 
___ 08:40PM BLOOD ASA: NEG Ethanol: NEG Acetmnp: NEG 
Tricycl: NEG 
___ 10:00PM URINE Blood: SM* Nitrite: NEG Protein: TR* 
Glucose: NEG Ketone: NEG Bilirub: NEG Urobiln: NEG pH: 7.5 
Leuks: NEG 
___ 10:00PM URINE bnzodzp: NEG barbitr: NEG opiates: NEG 
cocaine: NEG amphetm: NEG oxycodn: NEG mthdone: NEG 

 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient was offered a conditional voluntary 
agreement(Section 10 & 11) but declined, so she was maintained 
on a ___. Patient was educated on her legal status and 
right, after which she opted to apply for an emergency hearing 
(which was subsequently denied). Given appropriate coordination 
of aftercare with improvement in mood, the decision was made not 
to pursue involuntary civil commitment per MGL Ch 123 section 
___. She remained unit restricted and on 15 minute check 
status throughout the admission.  
. 
2. PSYCHIATRIC: 
#. MDD, without psychotic features 
. 
___ mother of four adult children, separated from her husband, 
recently lost financial support, unable to find a job after 
years of being a ___, currently domiciled but pending 
eviction due to inability to pay rent, w/ no formal PPHx but 
self-reported Hx of "PMS", no significant PMHx aside from 
currently undergoing menopause, who was BIBA after the police 
called by ___ children, who were alarmed by suicidal 
statements in her emails, broke into ___ home and found 
her agitated, as well as a noose hanging from the ceiling and a 
chair next to it. Patient became physically aggressive and 
required restraints in order to be brought to ED. 
.
Patient remained in the ED for 6 days prior to placement 
___ - ___. On initial evaluation, Ms. ___ 
reported that she was first introduced to idea of menopause 
several weeks ago by member of her church (importantly, after 
she bought the "shoe string" and wrote the suicidal letter), who 
apparently experienced similar sx around menopause including 
depressed mood, hopelessness, and loneliness. She additionally 
endorsed irregular menstruation, poor energy, inability to run 
on the treadmill like she used to, social isolation, anhedonia, 
hopelessness, and help-rejecting behavior. Per Ms. ___, many 
of her symptoms were likely secondary to menopause as opposed to 
depression. Ms. ___ disagrees with the diagnosis of major 
depression;  she identifies the symptoms of depressed mood, 
suicidality, and anhedonia as a "spiritual attack" questioning 
her faith. She reported that she was no longer feeling suicidal, 
and that she felt she was incorrectly hospitalized against her 
will. Ms. ___ declined use of medication given long history 
of avoiding medical care given aversion to "putting chemicals in 
[her] body". She reported that she is a spiritual woman and that 
she usually prays to God to heal her.  She reported being future 
oriented, with plan to use homeopathic treatments for menopausal 
symptoms including "bioidentical hormones" and "herbal 
remedies". Pt says that she called a ___-based ___ 
doctor in ___, who told her to buy $25 progesterone cream 
to use for 25 days. 
.   
Initially, Ms. ___ was irritable due to her frustration with 
hospitalization. During a family meeting with her 4 children, 
her children expressed feeling upset that their mother was 
hospitalized without consideration of their mother's faith-based 
aversion towards seeking formal medical care. Initially there 
was concern raised for MDD with psychotic features given 
hyperreligiousity, guarded behavior, with suspiciousness towards 
providers, but ___ children affirmed that patient is, at 
baseline, very devout (Additionally, patient did not exhibit any 
overt psychotic symptoms during admission). During this meeting, 
family was also informed that ___ diagnosis is major 
depression; family refused this diagnosis with anger/frustration 
towards the primary team for extending hospitalization for 
coordination of aftercare. 
. 
___ presentation was most consistent with Major Depressive 
Disorder without psychotic features, likely in the setting of or 
exacerbated by hormonal changes associated with menopause. She 
declined treatment of depression with antidepressants. Rather, 
patient consistently voiced her preference to engage in 
faith-based individual therapy or homeopathic remedies.  
___ mostly normal basic labs, (other than mild 
hyperglycemia and mild anemia) including normal TSH, combined 
with her largely normal cognitive exam on initial 
evaluation(specifically intact attention and orientation) make 
acute medical etiology less likely. Of note, while sx of 
depression started at the onset of her menopause, it was likely 
propagated and exacerbated by her worsening relationships and 
isolation from her family with recent loss of financial support.
. 
While Ms. ___ was initially frustrated with clinical 
decision made for admission, she expressed that she would be 
willing to participating in outpatient care if she were referred 
to ___ counselor. She researched multiple counselors and 
showed interest in participating in her care through a faith 
based approach. ___ son, ___, additionally stated that 
he would be moving back home to help support his mother further. 
Mental status exam prior to discharge was characterized by 
brighter, reactive affect and pleasant attitude.  During this 
admission, patient reported that she was able to reconcile with 
her children and apologize to them, given she felt guilty for 
burdening her family. When she was asked about her plan to 
mitigate her future risk of suicide, patient reported that she 
will "know better than to isolate myself" and that she will "not 
throw [her] faith away". Also stated that she will "get back 
into things", such as going to church and involving herself 
within the ___ community. She additionally contracted for 
safety and stated that she would be open to contacting her ex 
husband, children, and ___ community for help if she were 
to feel depressed in the future.  
. 
The following medications were offered, but declined: 
- Zoloft 
- Vistaril 25 mg Q6H:PRN for anxiety, insomnia
. 
3) Medical:
No known medical history, but upon admission, patient was found 
to have:
. 
#Normocytic anemia
Patient is ___, menstruating heavily with irregular 
pattern; most likely cause of anemia is iron deficiency.   
- Patient refused further labs drawn, including iron studies, 
B12, folate
- transfuse for Hgb <7
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient was rarely seen socializing or speaking with other 
patients and did not participate in group milieu therapy. 
. 
#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
Family meeting conducted with ___ children ___, 
___, ___. 
. 
#) INTERVENTIONS
- Medications:  None started, offered Zoloft which was declined 
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy offered. 
- Coordination of aftercare:   ___, ___, ___, REV.
. 
RISK ASSESSMENT & PROGNOSIS
Risk factors concerning for elevated risk of engaging in self 
harm included self isolating behavior, worsening depressed mood, 
help rejecting behavior, presence of 'noose' with suicide note, 
loss of financial support, and lack of outpatient providers. 
Nevertheless, many of these risk factors were modifiable, and 
patient now appears to have multiple protective factors. She now 
appears to be help seeking, expressed feeling that she could 
rely upon her children and the ___ community for support, 
demonstrates an improvement in insight/judgment, and 
demonstrates a strong belief in religion/spirituality. She 
additionally has outpatient providers available who use a faith 
based approach with patients and is open to working closely with 
them. Prior to discharge, patient demonstrated preserved 
capacity to engage in a meaningful conversation about safety 
planning and what she would do if symptoms of depression worsen 
or thoughts of suicide occur (e.g. patient would contact members 
of her faith community, tell her therapist, tell her family). At 
time of discharge, patient no longer required inpatient level of 
care due to decompensated affective symptoms and was no longer 
at acutely elevated risk of harm to herself.

 
Medications on Admission:
None
 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder 
___ depression 

 
Discharge Condition:
-Appearance: ___ yo women who appears stated age, wearing own
clothes (blue shirt, black sweatpants, clean pink tennis shoes),
well-groomed, with Bible on lap with multiple notes/papers
inside.
-Behavior: Sitting with legs crossed, maintains good eye
contact. No psychomotor agitation or retardation. No tremors. 
-Attitude: cooperative, calm 
-Mood: 'fine'
-Affect: euthymic,  mood congruent 
-Speech: spontaneous, fluent, normal rate and prosody
-Thought process: grossly linear and goal directed
-Thought Content: 
---Safety: Denied current SI
---Delusions: denied delusions 
---Obsessions/Compulsions: denied
---Hallucinations: denied auditory or visual hallucinations  
-Insight: acknowledging symptoms and need to get
help/reconcile w/ family, but through a faith based approach.   
-Judgment: improving; patient expresses desire to get help from
___ MD when she leaves and use bioidentical hormones along 
with regular therapy sessions. 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___